Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]1[C:6]2[O:7][C@:8]12[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6])[C:8](=[O:7])[H:9],-0.0966267414296
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],5.287398592380001
[C:3]([O:4][H:5])=[C:6]([H:7])[H:8].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-5.96556295462
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[H:11].[H:7],4.869514447009999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3],3.30729344508
[H:1][C:2]([H:3])=[C:4][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[H:11],0.9859503129
[H:1][O:2][C@:3]1([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-0.690385319839
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-7.00748583602
[H:1][C:2]([H:3])[O:7][C:8][O:9][C:10]([C:5]([H:4])([H:6])[H:12])[H:11]>>[H:1][C:2]([H:3])([H:4])[C@@:5]1([H:6])[O:7][C:8][O:9][C:10]1([H:11])[H:12],-3.61772457576
[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.459225315319999
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])[C:9]([H:10])[H:11]>>[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])=[C:9]([H:10])[H:11].[O:1],6.334465896779999
[H:1][O:2][C:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:10]([C:7]([H:8])[H:9])([H:11])[H:12],-0.235017952859
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12].[H:8],4.41711255732
[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.27931563251
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:10][C:8][H:9]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[O:10]1,-1.2009733018100002
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-2.0367172406
[H:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],2.95919374271
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[O:8][C:9]([H:10])[H:11].[O:1],4.14273792428
[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.32246929243
[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.29786744714
[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-3.96109348244
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.51835069426
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-6.60640168955
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-8.52251805166
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10],0.35288984816
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:6],1.9415052922
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],-4.69703526169
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[O:3])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.57996304
[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[C:3](=[O:4])[H:5]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[H:9],-3.17289717503
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],5.22647543309
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9][H:10]>>[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])[H:13],-5.941398003659999
